US05719193
Step A: N,N'-Bis(t-butoxycarbonyl)-1,8-octanediamine
Dissolve 10.8 gm (0.075) of diaminooctane in 200 ml CH2Cl2 and 100 ml CH3OH, add 32.7 gm (0.156 mol) of di-t-butyldicarbonate and stir the mixture overnight. Evaporate, in vacuo, and crystallize the residue from hexane to obtain 20.2 gm of the desired compound, mp 96°-97° C.

reactant | diaminooctane | 10.8 gm | C(CCCCN)CCCN | C8H20N2
reactant | di-t-butyldicarbonate | 0.156 mol, 32.7 gm | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 100 ml | CO | CH4O
product | N,N'-Bis(t-butoxycarbonyl)-1,8-octanediamine | 20.2 gm | C(C)(C)(C)OC(=O)NCCCCCCCCNC(=O)OC(C)(C)C | C18H36N2O4
